US08729273B2
Preparation 15: Synthesis of 1-(1H-indol-5-yl)-3-(trifluoromethyl)pyrazole-4-carboxylic acid ethyl ester
1H-indol-5-ylboronic acid (1,000 mg, 6.21 mmol) and 3-trifluoromethyl-1H-pyrazole-4-carboxylic acid ethyl ester (646 mg, 3.10 mmol) were reacted according to the same procedure as Preparation 1 to give the title compound (723 mg, 72% Yield).

reactant | 1H-indol-5-ylboronic acid | 6.21 mmol, 1,000 mg | N1C=CC2=CC(=CC=C12)B(O)O | C8H8BNO2
reactant | 3-trifluoromethyl-1H-pyrazole-4-carboxylic acid ethyl ester | 3.10 mmol, 646 mg | C(C)OC(=O)C=1C(=NNC1)C(F)(F)F | C7H7F3N2O2
product | 1-(1H-indol-5-yl)-3-(trifluoromethyl)pyrazole-4-carboxylic acid ethyl ester | 723 mg, 72% Yield | C(C)OC(=O)C=1C(=NN(C1)C=1C=C2C=CNC2=CC1)C(F)(F)F | C15H12F3N3O2
